US07223791B2
To a solution (50 ml) of 4-trifluoromethylbenzohydrazide (3.06 g) and benzaldehyde (1.52 ml) in methanol was added dropwise conc. sulfuric acid (0.5 ml), and this mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the residue was washed with hexane-ethanol (1:1, volume ratio) and recrystallized from ethanol to give N′-benzylidene-4-trifluoromethylbenzohydrazide (3.23 g, yield 74%) as colorless needle crystals. melting point: 216–217° C.

reactant | 4-trifluoromethylbenzohydrazide | 50 ml, 3.06 g | FC(C1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O
reactant | benzaldehyde | 1.52 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | N′-benzylidene-4-trifluoromethylbenzohydrazide | 3.23 g, yield 74% | C(C1=CC=CC=C1)=NNC(C1=CC=C(C=C1)C(F)(F)F)=O | C15H11F3N2O
